US07652049B2
To a solution of tert-butyl[(1R)-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)-1-phenylethyl]carbamate (150 mg, 0.277 mmol) containing minor impurities in CH2Cl2 (10 mL) was added TFA (1 mL). The reaction was stirred at room temperature for 2 hours and then poured into 1 N NaOH (25 mL). The mixture was extracted with CH2Cl2 (3×25 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by flash chromatography with 0 to 10% MeOH/CH2Cl2 afforded (1R)—N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1-phenylethane-1,2-diamine. Rf=0.27 (10% MeOH/CH2Cl2). LCMS=443.4 (M+1)+.

reactant | tert-butyl[(1R)-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)-1-phenylethyl]carbamate | 0.277 mmol, 150 mg | C(C)(C)(C)OC(N[C@@H](CNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C1=CC=CC=C1)=O | C31H37F3N2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1 N, 25 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (1R)—N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1-phenylethane-1,2-diamine | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC[C@H](N)C1=CC=CC=C1)OC | C26H29F3N2O
